US08912176B2
Preparation of 1-cyclobutyl-4-[(1-{[4-(1H-imidazol-1-yl)phenyl]carbonyl}azetidin-3-yl)carbonyl]-1,4-diazepane. Potency Range A
To a solution of 4-(1H-imidazol-1-yl)benzoic acid (150 mg, 0.80 mmol) in dichloromethane (10 mL) cooled to 0° C. was added oxalyl chloride (1 mL). DMF (2 drops) was added and the mixture was stirred for 45 min at 0° C. and volatiles were then removed at reduced pressure. The residue was diluted with dichloromethane (20 mL), cooled to 0° C. and triethylamine (201 mg, 2.0 mmol) was added followed by 1-(azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane (187 mg, 0.79 mmol). The resulting mixture was stirred at RT for 16 h before being diluted with more dichloromethane (50 mL) and quenched by addition of water (50 mL). The organic layer was then washed with saturated aqueous NaHCO3 (50 mL), dried (Na2SO4), filtered and concentrated at reduced pressure. Purification by silica FCC (using a gradient of eluents; 97:3 to 95:5 DCM/2M NH3 in MeOH) followed by purification by preparative HPLC (Method 2) gave the title compound (14 mg, 4% yield) as pale yellow oil.

reactant | 4-(1H-imidazol-1-yl)benzoic acid | 0.80 mmol, 150 mg | N1(C=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2
reactant | oxalyl chloride | 1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 2.0 mmol, 201 mg | C(C)N(CC)CC | C6H15N
reactant | 1-(azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane | 0.79 mmol, 187 mg | N1CC(C1)C(=O)N1CCN(CCC1)C1CCC1 | C13H23N3O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-cyclobutyl-4-[(1-{[4-(1H-imidazol-1-yl)phenyl]carbonyl}azetidin-3-yl)carbonyl]-1,4-diazepane | 14 mg, 4% yield | C1(CCC1)N1CCN(CCC1)C(=O)C1CN(C1)C(=O)C1=CC=C(C=C1)N1C=NC=C1 | C23H29N5O2
